US05006536
To 2-(2-fluorobenzoyl)-3-thiophenecarboxaldehyde dimethylacetal (144 g), and ethylene glycol (500 ml) was added potassium hydroxide (115 g) and hydrazine.monohydrate (74.8 ml). The reaction mixture was warmed slowly in an oil bath to 70°-75° C.; 10-15 ml of distillate was collected. The temperature was slowly increased to 120°-125° C. and maintained at this temperature for 30 mins. The oil bath was removed, and the mixture allowed to cool to room temperature. Ether and water were added and the layers separated. The aqueous layer was extracted with ether-dichloromethane, and the combined organic layers washed with brine and dried over anhydrous potassium carbonate, filtered and concentrated. The residue in ethyl acetate was passed through a pad of silica gel and ethyl acetate. Concentration afforded 2-(2-fluorobenzyl)-3-thiophenecarboxaldehyde dimethylacetal.

reactant | 2-(2-fluorobenzoyl)-3-thiophenecarboxaldehyde dimethylacetal | 144 g | COC(C1=C(SC=C1)C(C1=C(C=CC=C1)F)=O)OC | C14H13FO3S
reactant | potassium hydroxide | 115 g | [OH-].[K+]
reactant | hydrazine | NN | H4N2
solvent | ethylene glycol | 500 ml | C(CO)O | C2H6O2
product | 2-(2-fluorobenzyl)-3-thiophenecarboxaldehyde dimethylacetal | COC(C1=C(SC=C1)CC1=C(C=CC=C1)F)OC | C14H15FO2S
